US04792561
A solution of 600 mg of 6-[1-hydroxy-1-phenyl-2-(imidazol-1-yl)ethyl]-3,4-dihydrocarbostyril in 20 ml of anhydrous formic acid was refluxed for 24 hours. The solvent was removed under reduced pressure and the residue partitioned between 5% methanol in methylene chloride and aqueous potassium carbonate. The organic solution was dried over anhydrous sodium sulfate and the solvent removed under reduced pressure. The residue was chromatographed on silica gel, eluting with 5% methanol in methylene chloride, affording 6-[1-phenyl-2-(imidazol-1-yl)ethenyl]-3,4-dihydrocarbostyril as a mixture of (E) and (Z) isomers.

reactant | 6-[1-hydroxy-1-phenyl-2-(imidazol-1-yl)ethyl]-3,4-dihydrocarbostyril | 600 mg | OC(CN1C=NC=C1)(C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C20H19N3O2
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | 6-[1-phenyl-2-(imidazol-1-yl)ethenyl]-3,4-dihydrocarbostyril | C1(=CC=CC=C1)C(=CN1C=NC=C1)C=1C=C2CCC(NC2=CC1)=O | C20H17N3O
